US04206120
1-(4-Methylthio-2-oxoazetidin-1-yl)-3-(p-nitrophenyl)-propan-2-one
4-Methylthioazetidin-2-one (470 mg., 4 mmole) and 1-bromo-3-p-nitrophenylpropan-2-one (1.05 g., 4.07 mmole) were converted into the title compound using the process described in Example 1.1. The title compound was obtained as a yellow gum (176 mg., 15% yield). νmax (CHCl3): 1765 (β-lactam C=O), 1735 (ketone C=O), 1605 (aromatic C=C), 1530 and 1355 (aromatic NO2) cm-1. δ(CDCl3): 1.98 (s, 3H, SCH3), 2.98 (dd, J 15, J' 3Hz, 1H, β-lactam CHH), 3.42 (dd, J 15, J' 6Hz, 1H, β-lactam CHH), 3.80 (d, J 18Hz, 1H, NCHH), 3.88 (s, 2H, COCH2Ar), 4.38 (d, J 18Hz, 1H, NCHH), 4.82 (dd, J 6, J' 3Hz, 1H β-lactam CH), 7.43 (d, J 8.5Hz, 2H, Ar-H), 8.22 (d, J 8.5Hz, 2H, Ar-H).

reactant | 4-Methylthioazetidin-2-one | 4 mmole, 470 mg | CSC1CC(N1)=O | C4H7NOS
reactant | 1-bromo-3-p-nitrophenylpropan-2-one | 4.07 mmole, 1.05 g | BrCC(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C9H8BrNO3
product | 1-(4-Methylthio-2-oxoazetidin-1-yl)-3-(p-nitrophenyl)-propan-2-one | CSC1CC(N1CC(CC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C13H14N2O4S
